US05547954
A stirred solution of 8.3 grams (0.063 mole) of 2-amino-3-cyano-4-methylpyridine in 125 mL of N,N-dimethylformamide is cooled in an ice bath, and a solution of 11.2 grams (0.063 mole) of N-bromosuccinimide in 125 mL of N,N-dimethylformamide is added dropwise during a 30 minute period, while maintaining the reaction mixture temperature at about 15-25° C. Upon completion of addition, the reaction mixture is stirred at ambient temperature for about 20 hours. After this time, the reaction mixture is poured into 1 liter of aqueous 3N sodium hydroxide. The mixture is then diluted to a volume of about 1700 mL with distilled water. A solid precipitate is collected by filtration and dried under reduced pressure, yielding 2-amino-5-bromo-3-cyano-4-methylpyridine.

reactant | 2-amino-3-cyano-4-methylpyridine | 0.063 mole, 8.3 grams | NC1=NC=CC(=C1C#N)C | C7H7N3
reactant | N-bromosuccinimide | 0.063 mole, 11.2 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | N,N-dimethylformamide | 125 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 125 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-amino-5-bromo-3-cyano-4-methylpyridine | NC1=NC=C(C(=C1C#N)C)Br | C7H6BrN3
